US07851626B2
A solution of 5-chlorosulfonyl-2-ethoxy-4-methoxybenzoic acid (13 g, 44 mmol) in tetrahydrofuran was cooled to 5° C. and treated with excess diazomethane in ether solution (prepared from N-methyl-N-nitroso-p-toluenesulfonamide, Aldrich) and stirred for 10 min. Solvent and excess diazomethane was removed by rotary evaporation. The resulting residue was dissolved in dichloromethane and filtered through a plug of silica gel and evaporated. The solids were triturated with ether/hexane to give 13 g of 5-chlorosulfonyl-2-ethoxy-4-methoxy-benzoic acid methyl ester as a colorless solid.

reactant | 5-chlorosulfonyl-2-ethoxy-4-methoxybenzoic acid | 44 mmol, 13 g | ClS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)OCC)OC | C10H11ClO6S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-chlorosulfonyl-2-ethoxy-4-methoxy-benzoic acid methyl ester | 13 g | COC(C1=C(C=C(C(=C1)S(=O)(=O)Cl)OC)OCC)=O | C11H13ClO6S
